US07951810B2
Step e: (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(6-chloro-9H-purin-9-yl)-cyclopentanol
To a solution of (1S,2R,4R)-4-(6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol (0.496 g, 0.0018 mol) in DMF (10 mL) was added tert-butyldimethylsilyl chloride (0.348 g, 0.0023 mol), N,N-dimethylaminopyridine (0.023 g, 0.00019 mol) and imidazole (0.276 g, 0.0041 mol). This solution was stirred for 1 h and then the reaction mixture was quenched with water and diluted with ethyl acetate. The organic layer was washed with water, concentrated and purified by flash chromatography (0 to 50% EtOAc/DCM) to afford the title compound (0.462 g, 65%).

reactant | (1S,2R,4R)-4-(6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol | 0.0018 mol, 0.496 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO | C11H13ClN4O2
reactant | tert-butyldimethylsilyl chloride | 0.0023 mol, 0.348 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.0041 mol, 0.276 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(6-chloro-9H-purin-9-yl)-cyclopentanol | 0.462 g, 65% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](C1)N1C2=NC=NC(=C2N=C1)Cl)O | C17H27ClN4O2Si
